US05891909
a) 3-(2,5-Dimethoxyphenylsulfonyloxy)-5-methylphenol
To a solution of 1.00 g (8.05 mmol) of orcinol monohydrate and 1.75 g (7.38 mmol) of 2,5-dimethoxybenzenesulfonyl chloride in 20 mL of diethyf ether was added 20 mL of saturated aqueous NaHCO3 and the biphasic mixture stirred vigorously at ambient temperature for 3 days. The layers were separated and the aqueous layer extracted with 2×30 mL of ethyl acetate. The combined organic layers were washed with 50 mL of brine, dried (Na2SO4) and concentrated to give an amber-colored solid. Recrystallization from ethyl acetate-hexane afforded 1.29 g (54%) of the title compound as a cream-colored powder: 1H-NMR (300 MHz; CDCl3) δ 7.34 (d, 1 H, J=3.1 Hz), 7.15 (dd, 1 H, J=9.1, 3.1 Hz), 7.02 (d, 1 H, J=9.1 Hz), 6.53 (m, 2 H), 6.42 (t, 1H, J=2.2 Hz), 5.08 (br s, 1 H),3.95 (s,3 H), 3.76 (s, 3 H), and 2.23 (s, 3 H).

reactant | orcinol monohydrate | 8.05 mmol, 1.00 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | 2,5-dimethoxybenzenesulfonyl chloride | 7.38 mmol, 1.75 g | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | ether | 20 mL | CCOCC | C4H10O
product | 3-(2,5-Dimethoxyphenylsulfonyloxy)-5-methylphenol | 1.29 g, 54% | COC1=C(C=C(C=C1)OC)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C15H16O6S
